US20010027196A1
2-Amino-4-pyridin-3-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyridin-3-yl-pyrimidine-5-carbonitrile, 2-pyridylethylmercaptan and DBU in DME. EI-MS m/e (%): 334 (M+, 35), 333 ([M—H]+, 100), 138 (52), 106 (33).

reactant | 2-amino-4-methanesulfinyl-6-pyridin-3-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1C=NC=CC1 | C11H9N5OS
reactant | 2-pyridylethylmercaptan | N1=C(C=CC=C1)CCS | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-pyridin-3-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1C=NC=CC1)C#N)SCCC1=NC=CC=C1 | C17H14N6S
